US08044213B2
To a mixture of 0.051 g (0.2 mmole) of toluene-4-sulfonic acid cyclohexyl ester, 0.037 g (0.1 mmole) of 4-(3-chloro-phenyl)-2-(6-hydroxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide (I.25d) and 1 mL of dimethylformamide was added 0.163 g (0.5 mmole) of cesium carbonate. The mixture was heated at 100 degrees for 30 minutes. The mixture was cooled, the solid was removed by filtration and the filtrate purified by reverse phase silica gel chromatography, eluting with acetonitrile-water (gradient 40:60-100:0) to give 0.027 g of 4-(3-chloro-phenyl)-2-(6-cyclohexyloxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide (I.25) as a white powder. MH+/Z=453

reactant | toluene-4-sulfonic acid cyclohexyl ester | 0.2 mmole, 0.051 g | C1(CCCCC1)OS(=O)(=O)C1=CC=C(C=C1)C | C13H18O3S
reactant | 4-(3-chloro-phenyl)-2-(6-hydroxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide | 0.1 mmole, 0.037 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)O | C17H11ClN4O2S
reactant | cesium carbonate | 0.5 mmole, 0.163 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloro-phenyl)-2-(6-cyclohexyloxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide | 0.027 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)OC2CCCCC2 | C23H21ClN4O2S
